US07470699B2
Preparation of 4-{5-Cyano-6-[4-(2-dimethylamino-ethylsulfanyl)-2-fluoro-phenylamino]-pyrimidin-4-yloxy}-piperidine-1-carboxylic acid isopropyl ester (Compound A67)
In a microwave reaction tube was placed 4-[5-cyano-6-(2-fluoro-4-iodo-phenylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (10 mg, 0.19 mmol), 2-dimethylamino-ethanethiol (27 mg, 0.19 mmol), di-m-bromobis (tri-t-butylphosphino)dipalladium (I) (8 mg, 0.0095 mmol), sodium t-butoxide (55 mg, 0.57 mmol), and DMSO (0.5 mL). The reaction mixture was heated at 120° C. under microwave for 4 hours. The resulting mixture was filtered through a syringe filter and purified by preparative HPLC. 1H NMR (CDCl3, 400 MHz) δ 1.26 (d, 6H), 1.86 (m, 2H), 2.00 (m, 2H), 2.86 (s, 6H), 3.20 (m, 2H), 3.30 (m, 2H), 3.43 (m, 2H), 3.78 (m, 2H), 4.94 (m, 1H), 5.44 (m, 1H), 7.22 (s, 1H), 7.24 (s, 1H), 7.35 (s, 1H), 8.11 (t, 1H), 8.45 (s, 1H). Exact mass calculated for C24H31FN6O3S 502.22, found 503.2 (MH+).

reactant | 4-[5-cyano-6-(2-fluoro-4-iodo-phenylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 0.19 mmol, 10 mg | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C#N)NC1=C(C=C(C=C1)I)F | C20H21FIN5O3
reactant | 2-dimethylamino-ethanethiol | 0.19 mmol, 27 mg | CN(CCS)C | C4H11NS
reactant | sodium t-butoxide | 0.57 mmol, 55 mg | CC(C)([O-])C.[Na+]
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | 4-{5-Cyano-6-[4-(2-dimethylamino-ethylsulfanyl)-2-fluoro-phenylamino]-pyrimidin-4-yloxy}-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C#N)NC1=C(C=C(C=C1)SCCN(C)C)F | C24H31FN6O3S
